US04061759
To an ice cold mixture of 0.01 mole of ethylmercapto acetate and 0.02 mole of sodium ethoxide in 100 ml. ethanol under nitrogen is added a solution of 4-bromo-3-hydroxy-2-methyl-5-vinylpyridine hydrobromide in 50 ml. of ethanol. The reaction mixture is stirred overnight at room temperature, concentrated in vacuo and taken up between ethyl acetate and water. The organic layer is separated, washed well with water, dried and concentrated Chromatography of the residue on silica gel-elution with ether-petroleum ether 10-50% gives 4-ethoxycarbonylmethylthiomethyl-3-hydroxy-2-methyl-5-vinyl pyridine.

reactant | ethylmercapto acetate | 0.01 mole | C(C)(=O)OSCC | C4H8O2S
reactant | sodium ethoxide | 0.02 mole | [O-]CC.[Na+]
reactant | 4-bromo-3-hydroxy-2-methyl-5-vinylpyridine hydrobromide | Br.BrC1=C(C(=NC=C1C=C)C)O
reactant | ethanol | C(C)O | C2H6O
product | 4-ethoxycarbonylmethylthiomethyl-3-hydroxy-2-methyl-5-vinyl pyridine | C(C)OC(=O)CSCC1=C(C(=NC=C1C=C)C)O | C13H17NO3S
